US04179508
4,4 Dimethyl-2-(isopropylmercapto-methyl)-2H,4H-isoquinoline-1,3 dione by method B
1.17 gm of isopropylmercaptan were added to a solution of 0.83 gm of sodium methylate in 50 ml of methanol. After shaking the resulting mixture, 3.3 gm of 4,4-dimethyl-2-chloromethyl-2H,4H-isoquinoline-1,3-dione were added, and the mixture was refluxed for 15 minutes. The precipitated sodium chloride was suction-filtered off, the filtrate was evaporated, and the residue was purified on a silicagel column (eluant: chloroform/cyclohexane=1:1). After evaporation of the eluate a colorless oil was obtained.

reactant | isopropylmercaptan | 1.17 gm | C(C)(C)S | C3H8S
reactant | sodium methylate | 0.83 gm | C[O-].[Na+]
reactant | 4,4-dimethyl-2-chloromethyl-2H,4H-isoquinoline-1,3-dione | 3.3 gm | CC1(C(N(C(C2=CC=CC=C12)=O)CCl)=O)C | C12H12ClNO2
solvent | methanol | 50 ml | CO | CH4O
product | 4,4 Dimethyl-2-(isopropylmercapto-methyl)-2H,4H-isoquinoline-1,3 dione | CC1(C(N(C(C2=CC=CC=C12)=O)CSC(C)C)=O)C | C15H19NO2S
